US08492582B2
Acetic anhydride (0.069 mL) was added to a solution mixture of the obtained 2-hydroxy-5-propoxybenzoic acid (0.12 g) in methylene chloride (3.0 mL) and pyridine (0.12 mL) under ice-cooling, followed by stirring at room temperature for 2 hours and 30 minutes. Pyridine (0.050 mL) and acetic anhydride (0.058 mL) were added to the reaction mixture, followed by stirring at room temperature for 50 minutes. The solvent was evaporated under reduced pressure, and 1 mol/L hydrochloric acid and ethyl acetate were added to the obtained residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 65-55% hexane/ethyl acetate] to obtain 0.091 g of 2-acetoxy-5-propoxybenzoic acid as a white solid.

reactant | Acetic anhydride | 0.069 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-hydroxy-5-propoxybenzoic acid | 0.12 g | OC1=C(C(=O)O)C=C(C=C1)OCCC | C10H12O4
reactant | acetic anhydride | 0.058 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.12 mL | N1=CC=CC=C1 | C5H5N
solvent | Pyridine | 0.050 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy-5-propoxybenzoic acid | 0.091 g | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)OCCC | C12H14O5
